US04595408
N(m-propionamidophenyl)-2,2-dimethylsuccinimide
Five and one half g. of propionic anhydride containing one drop of concentrated sulfuric acid was mixed at ambient temperature with 8.7 g. of N-m-aminophenyl-2,2-dimethylsuccinimide in a small beaker. The mixture became very hot and on cooling was poured into water and extracted with methylene chloride, which was dried and stripped under vacuum yielding 9.5 g. of a glassy product. The product was identified as the title compound by analysis of infrared spectra.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-m-aminophenyl-2,2-dimethylsuccinimide | NC=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C12H14N2O2
catalyst | propionic anhydride | one drop | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | O | H2O
product | N(m-propionamidophenyl)-2,2-dimethylsuccinimide | C(CC)(=O)NC=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C15H18N2O3
